US04219657
(F) 3-diazomethylcarbonyl-8-methyldibenzothiophene
A solution of 2.5 g. of 3-chlorocarbonyl-8-methyldibenzothiophene in 75 ml. of ether was added dropwise to a solution of 0.81 g. of diazomethane in 100 ml. of ether in an ice bath. The solution was stirred overnight, and the ether was removed on the steam bath. The crude product (2.5 g.), 3-diazomethylcarbonyl-8-methyldibenzothiophene, was used directly in the next step.

reactant | 3-chlorocarbonyl-8-methyldibenzothiophene | ClC(=O)C=1C=CC2=C(SC3=C2C=C(C=C3)C)C1 | C14H9ClOS
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | ether | CCOCC | C4H10O
product | 3-diazomethylcarbonyl-8-methyldibenzothiophene | [N+](=[N-])=CC(=O)C=1C=CC2=C(SC3=C2C=C(C=C3)C)C1 | C15H10N2OS
